US07091230B2
To a solution of 2,6-diallyl-4-benzyloxyphenol (200 mg, 1.0 eq) in DMF (8 mL) were added methyl α-bromo-4-chlorobenzeneacetate (190 mg, 1.0 eq) and Cs2CO3 (285 mg, 1.2 eq). The reaction mixture was stirred at room temperature for 15 h, poured into ether, washed with water and brine, dried over MgSO4, filtered, and concentrated in vac. Purification by chromatography (SiO2, EtOAc/Hexanes 1:20) afforded the desired methyl α-(2,6-diallyl-4-hydroxyphenoxy)-4-chlorobenzeneacetate.

reactant | 2,6-diallyl-4-benzyloxyphenol | 200 mg, 1.0 eq | C(C=C)C1=C(C(=CC(=C1)OCC1=CC=CC=C1)CC=C)O | C19H20O2
reactant | methyl α-bromo-4-chlorobenzeneacetate | 190 mg, 1.0 eq | BrC(C(=O)OC)C1=CC=C(C=C1)Cl | C9H8BrClO2
reactant | Cs2CO3 | 285 mg, 1.2 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ether | CCOCC | C4H10O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | methyl α-(2,6-diallyl-4-hydroxyphenoxy)-4-chlorobenzeneacetate | C(C=C)C1=C(OC(C(=O)OC)C2=CC=C(C=C2)Cl)C(=CC(=C1)O)CC=C | C21H21ClO4
